US04490533
C. N-[3-(6-Dimethylaminomethyl-2-pyridylthio)propyl]-N'-methyl-2-nitro-1,1-diaminoethene
1-[3-(6-Dimethylaminomethyl-2-pyridylthio) propylamino]-1-methylthio-2-nitroethene (1.25 g, 0.0037 mol) is added to ethanol (15 ml) saturated with monomethylamine gas at ice bath temperature and is allowed to stir at ambient temperature for 18 hours. The reaction solvent is removed and the residue is chromatographed on silica gel (50 g) eluting with 5-20% methanol/chloroform to 1.1 g of a glassy product.

reactant | 1-[3-(6-Dimethylaminomethyl-2-pyridylthio) propylamino]-1-methylthio-2-nitroethene | 0.0037 mol, 1.25 g | CN(C)CC1=CC=CC(=N1)SCCCNC(=C[N+](=O)[O-])SC | C14H22N4O2S2
reactant | monomethylamine | CN | CH5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-[3-(6-Dimethylaminomethyl-2-pyridylthio)propyl]-N'-methyl-2-nitro-1,1-diaminoethene | CN(C)CC1=CC=CC(=N1)SCCCNC(=C[N+](=O)[O-])NC | C14H23N5O2S
